US06734180B1
7-(2-indanylamino)oxazolo[5,4-d]pyrimidine
4-cyano-5-ethoxymethyleneaminooxazole (240 mg, 1.5 mmol) (see J. Am. Chem. Soc., 88, 3829 (1966), Bull. Chem. Soc. JAPAN, 43, 187 (1970), Bull. Chem. Soc. JAPAN, 43, 3909 (1970)) and 2-aminoindan (580 mg, 4.4 mmol) in dry ethanol (2 ml) were heated to reflux for 6.5 hours. The residue obtained by distilling off the solvent under reduced pressure was purified by silica gel chromatography (methylene chloride:ethyl acetate=1:4) to obtain the title compound (56 mg, 0.22 mmol) having the following physical properties:

reactant | 4-cyano-5-ethoxymethyleneaminooxazole | 1.5 mmol, 240 mg | C(#N)C=1N=COC1N=COCC | C7H7N3O2
reactant | 2-aminoindan | 4.4 mmol, 580 mg | NC1CC2=CC=CC=C2C1 | C9H11N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 7-(2-indanylamino)oxazolo[5,4-d]pyrimidine | 0.22 mmol, 56 mg | C1C(CC2=CC=CC=C12)NC=1C2=C(N=CN1)OC=N2 | C14H12N4O
